US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-n-butylaminoiminomethylaminobenzoate.dihydrochloride:
30 Milliliters of 20% hydrous pyridine was added to 1.6 g of 4-n-butylaminoiminomethylaminobenzoic acid.hydrochloride, 1.5 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 1.33 g of DCC and 65.5 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 4 days at room temperature. Then, the precipitate was filtered and the filtrate was concentrated under reduced pressure. To the residue was added 20 ml of DMF, and the solution was added dropwise to a mixed liquid of 300 ml of acetone and 200 ml of ether, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using methyl ethyl ketone-water-acetic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To the residue were added 30 ml of methanol and 2.1 ml of concentrated hydrochloric acid, and the solution was added dropwise to 250 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration, and to the collected precipitate were added 9 ml of methanol, 7 ml of ethanol and 6 ml of 2-propanol, followed by stirring for 1 hour under cooling with ice. The precipitate was collected by filtration and washed with a small amount of acetone to obtain 1.68 g of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-n-butylaminoiminomethylaminobenzoic acid.hydrochloride | 1.6 g | Cl.C(CCC)NN=CNC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 1.5 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 1.33 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 65.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water acetic acid | C(C)C(=O)C.O.C(C)(=O)O
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-n-butylaminoiminomethylaminobenzoate.dihydrochloride | 1.68 g | Cl.Cl.C(CCC)NN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | InChI=1S/C25H28N6O3.2ClH/c1-2-3-12-30-31-15-29-19-8-4-16(5-9-19)25(33)34-22-11-7-17-13-18(24(27)28)6-10-20(17)21(22)14-23(26)32;;/h4-11,13,15,30H,2-3,12,14H2,1H3,(H2,26,32)(H3,27,28)(H,29,31);2*1H
